data/specific_train_final.csv
"CC(C[O:21][O:20][O])C(C)O.[N+](=O)[O-]>>CC(C[O:21])C(C)O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(CC2C1CCC(C(CCC2=C)O[N+](=O)[O-])(C)O[O:20])C.[N:10]=O>>CC1(CC2C1CCC(C(CCC2=C)O[N+](=O)[O-])(C)O[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21]1(C=CC=C([C:22]1O)CCC)O.[O:10][O]>>[H:20][O:10][O].CCCC1=CC=C[C:21](=[C:22]1O)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[CH3:1][CH:2]([CH3:3])[C:4](=[O:12])[CH:5]=[CH:6][CH:7]1[CH:9]([O:8]1)[CH:10]=[O:11].[OH:13]>>[CH3:1][CH:2]([CH3:3])[C:4](=[O:12])[CH:5][CH:6]([CH:7]1[CH:9]([O:8]1)[CH:10]=[O:11])[OH:13] 13-13,6; 5,6-13,6; 5,6-5",Room Temperature,Propagation,addition
"[CH3:4][C:3](=[CH:5][CH2:6][OH:7])[CH2:2][O:1].[N+:9](=[O:10])[O-:8]>>[CH3:4][C:3](=[CH:5][CH2:6][OH:7])[CH2:2][O:1][N+:9](=[O:10])[O-:8] 1-9,1; 9-1,9",Room Temperature,Termination,recombine
"[CH3:1][O:2][O:3][O:4][N+:5](=[O:7])[O-:6]>>[CH3:1][O:2][O:3][O:4].[N+:5](=[O:7])[O-:6] 4,5-5; 4,5-4",Room Temperature,Initiation,homolyze
"[H:15][O:16][O:17].[H:14][O:13][O:12][CH2:11][CH:8]([C:3]([CH3:4])([CH:2]=[O:1])[O:5][O:6][H:7])[O:9][O:10]>>[H:14][O:13][O:12][CH2:11][CH:8]([C:3]([CH3:4])([CH:2]=[O:1])[O:5][O:6][H:7])[O:9][O:10][H:15].[O:16][O:17] 15,16-10,15;15,16-16;10-10,15",Room Temperature,Propagation,abstraction
"CC1=CCC(CC1O)C(C)(C)[O:20].[N+:10](=O)[O-]>>CC1=CCC(CC1O)C(C)(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[CH:10]C1=CC=CC=C1.[O:20][O]>>CC[CH:10](C1=CC=CC=C1)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(CO)O[O:20].[N:10]=O>>CCC(C)(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21]1(C=C(C=C([C:22]1O)C)C)O.[O:10][O]>>[H:20][O:10][O].CC1=C[C:21](=[C:22](C(=C1)C)O)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"C1CCC(CC1)O[O:20].[N+](=O)([O-])[O:10]>>C1CCC(CC1)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(CO[N+](=O)[O-])O[O:20])C.[N+](=O)([O-])[O:10]>>CC1(C2CCC(C1C2)(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:2]([CH2:3][CH3:4])[O:1].[N:13](=[O:14])[O:12]>>[CH3:11][CH2:10][CH2:9][CH2:8][CH2:7][CH2:6][CH2:5][CH:2]([CH2:3][CH3:4])[O:1].[N+:13](=[O:14])[O-:12] 13-12,Room Temperature,Propagation,ha resonance
"CCCCC(CO[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CCCCC(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C(C)(C)O[O:20])O.[N+](=O)([O-])[O:10]>>CC(C)(C(C)(C)O[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCCO[O:20].[N:10]=O>>CCCCCCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC(=CC(=C1)C[O:21][O:20][O])C.[N+](=O)[O-]>>CC1=CC(=CC(=C1)C[O:21])C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C=C)(C(=O)[O:21][OH:20])[O:11][OH:10].[He]>>[He].CC(C=C)(C(=O)[O:21])[O:11][OH:10].[OH:20] 21,20-20;20,21-21",Light,Initiation,homolyze
"CCC(CC)O[O:20].[N:10]=O>>CCC(CC)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:9][C:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:10])([Cl:7])[Cl:8]>>[CH3:9][C:6]([O:5][O:4][O:3])([Cl:7])[Cl:8].[N+:2](=[O:1])[O-:10] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CCCC(OCC(C)O)[O:20][O:21]N=O>>CCCC([O:20])OCC(C)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:4][C:3]([CH:2]=[O:1])([CH:6]([CH2:7][O:8][OH:9])[O:11][OH:12])[O:5].[N+:14](=[O:15])[O-:13]>>[CH3:4][C:3]([CH:2]=[O:1])([CH:6]([CH2:7][O:8][OH:9])[O:11][OH:12])[O:5][N+:14](=[O:15])[O-:13] 5-5,14; 14-14,5",Room Temperature,Termination,recombine
"CO[CH:20]OC.[O:10][O]>>CO[CH:20](OC)[O:10][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH:10](Cl)Cl.[O:20][O]>>[CH:10]([O:20][O])(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:10][O:9][O:8][O:7].[CH3:4][CH:3]([CH3:5])[C:2](=[O:6])[O:1]>>[H:10][O:9].[CH3:4][CH:3]([CH3:5])[C:2](=[O:6])[O:1].[O:7][O:8] 8,9-9; 8,9-8",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]CC1=CC=CC=C1.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].[CH2:21]CC1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2](=[O:14])[CH:3]([C:7]([CH3:13])([CH2:8][O:9][H:10])[O:11][H:12])[O:4][O:5][H:6].[He]>>[H:1][C:2](=[O:14])[CH:3]([C:7]([CH3:13])([CH2:8][O:9][H:10])[O:11][H:12])[O:4].[H:6][O:5].[He] 5,4-4; 5,4-5",Light,Initiation,homolyze
"[H:20][C:21](=O)C1C(O1)/C=C\C(=O)C.[OH:10]>>[H:20][OH:10].CC(=O)/C=C\C1C(O1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC12C(C(C(=C[C:10]1O)C)OO2)O[N+](=O)[O-].[O:20][O]>>CCC12C(C(C(=C[C:10]1(O)[O:20][O])C)OO2)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
